T1 (net145 net19 net19 0) nfet L=6.35E-6 W=8.33E-6
T2 (net35 net121 net121 0) pfet L=5.82E-6 W=3.72E-6
R3 ( net51 net20)  R=9.9E0
T4 ( net20 net69 vdd! vdd!)  pfet  L=8.78E-6 W=8.44E-6
T5 ( net74 net69 vdd! vdd!)  pfet  L=8.78E-6 W=8.44E-6
T6 ( net43 net20 net74 vdd!)  pfet  L=8.78E-6 W=8.44E-6
T7 (net126 net122 net122 0) pfet L=3.31E-6 W=3.42E-6
T8 (net135 0 0 0) nfet L=3.27E-6 W=6.31E-6
R9 ( net32 net85)  R=7.9E4
T10 ( net85 net95 0 0)  nfet  L=8.50E-6 W=8.42E-6
T11 ( net119 net95 0 0)  nfet  L=8.50E-6 W=8.42E-6
T12 ( vdd! net85 net95 0)  nfet  L=8.50E-6 W=8.42E-6
T13 (net115 net70 net70 0) pfet L=1.76E-6 W=8.72E-6
C14 (0 net25) C=8.6E-12
T15 (net108 net104 net104 0) pfet L=9.21E-6 W=2.80E-6
T16 (net26 net139 net139 0) pfet L=0.32E-6 W=4.79E-6
T17 (net140 net125 net125 0) pfet L=2.32E-6 W=4.56E-6
T18 (net80 net94 net94 0) pfet L=8.86E-6 W=3.06E-6
C19 (net97 net73) C=8.6E-5
R20 (net42 vdd!) R=3.7E5
C21 (net105 net46) C=2.2E-13
R22 (net114 net5) R=7.0E3
T23 (net78 net128 net128 0) pfet L=9.83E-6 W=4.71E-6
C24 (net118 net8) C=9.6E-7
C25 (net13 net52) C=7.7E-5
T26 (net97 net55 net55 0) nfet L=5.73E-6 W=4.30E-6
C27 (vdd! net12) C=2.5E-13
T28 (net78 net58 net58 0) nfet L=0.94E-6 W=9.20E-6
C29 (net129 0) C=2.5E-9
R30 (net77 net82) R=1.6E2
T31 (net25 net89 net89 0) pfet L=5.13E-6 W=2.11E-6
T32 (net36 net58 net58 0) pfet L=0.80E-6 W=0.23E-6
C33 (net149 net10) C=6.0E-6
C34 (net3 net50) C=6.1E-5
T35 (0 net108 net108 0) pfet L=8.20E-6 W=7.56E-6
C36 (net73 net108) C=9.4E-6
T37 (net105 net99 net99 0) nfet L=6.59E-6 W=5.81E-6
C38 (net53 net120) C=8.7E-12
C39 (net64 net60) C=3.1E-9
R40 (net106 net17) R=7.0E3
T41 (net123 net144 net144 0) pfet L=6.73E-6 W=9.85E-6
T42 (net122 net43 net43 0) pfet L=2.37E-6 W=1.74E-6
C43 (net120 net118) C=0.4E-7
C44 (net151 net139) C=4.0E-12
T45 (net15 net65 net65 0) nfet L=7.50E-6 W=4.51E-6
C46 (net25 net100) C=2.6E-13
C47 (vdd! net150) C=1.3E-11
R48 (0 net14) R=9.6E4
R49 (net133 net129) R=0.3E1
T50 (net49 net106 net106 0) pfet L=1.53E-6 W=3.35E-6
R51 (vdd! net22) R=2.1E4
T52 (net79 net64 net64 0) pfet L=4.64E-6 W=4.20E-6
T53 (net65 net65 net65 0) pfet L=8.05E-6 W=0.57E-6
T54 (net64 net115 net115 0) pfet L=3.93E-6 W=8.21E-6
C55 (net92 net111) C=8.6E-6
R56 (net66 net107) R=4.2E1
C57 (net122 net75) C=2.9E-14
C58 (net67 net153) C=0.2E-14
T59 (net45 0 0 0) pfet L=2.86E-6 W=2.37E-6
C60 (net31 net39) C=2.3E-9
C61 (net27 net96) C=3.8E-11
R62 (net19 net77) R=0.7E5
T63 (net131 net29 net29 0) pfet L=0.45E-6 W=9.30E-6
T64 (vdd! net91 net91 0) nfet L=8.86E-6 W=6.04E-6
T65 (net15 net88 net88 0) nfet L=4.01E-6 W=3.31E-6
R66 (net100 net87) R=7.5E2
C67 (net144 net27) C=8.7E-5
T68 (net145 net144 net144 0) nfet L=6.98E-6 W=3.46E-6
R69 (net107 net47) R=8.0E6
C70 (net49 vdd!) C=7.6E-5
T71 (net134 net37 net37 0) pfet L=6.09E-6 W=6.91E-6
T72 (vdd! 0 0 0) pfet L=3.98E-6 W=5.01E-6
R73 (net27 net54) R=3.9E2
T74 (net125 net119 net119 0) nfet L=0.23E-6 W=9.68E-6
T75 (net63 net9 net9 0) nfet L=9.37E-6 W=7.44E-6
T76 (net153 net77 net77 0) nfet L=8.08E-6 W=5.69E-6
C77 (net25 net1) C=7.8E-9
R78 (net83 net77) R=2.4E6
C79 (net107 net137) C=7.8E-11
C80 (net132 net93) C=8.8E-12
R81 (0 net8) R=1.8E4
T82 (net98 net79 net79 0) pfet L=5.08E-6 W=1.10E-6
R83 (net70 vdd!) R=6.0E4
T84 (net152 net3 net3 0) nfet L=9.33E-6 W=5.33E-6
C85 (net151 net134) C=8.0E-14
T86 (net122 net25 net25 0) pfet L=5.48E-6 W=4.60E-6
C87 (net41 net107) C=1.6E-11
T88 (net118 net52 net52 0) pfet L=7.17E-6 W=0.95E-6
T89 (net135 net9 net9 0) nfet L=0.48E-6 W=6.53E-6
R90 (net131 net51) R=9.7E6
C91 (net41 net106) C=4.2E-11
T92 (net93 net53 net53 0) nfet L=8.11E-6 W=4.91E-6
C93 (net152 net87) C=5.5E-11
T94 (net62 net65 net65 0) nfet L=2.64E-6 W=7.80E-6
T95 (net10 net87 net87 0) pfet L=5.39E-6 W=2.40E-6
T96 (net75 net152 net152 0) nfet L=5.40E-6 W=3.13E-6
T97 (net45 net125 net125 0) nfet L=6.13E-6 W=2.33E-6
C98 (net71 net17) C=2.6E-6
R99 (net19 net151) R=1.7E1
T100 (net8 net63 net63 0) nfet L=5.17E-6 W=8.71E-6
R101 (net22 net37) R=5.4E0
C102 (net132 net8) C=4.6E-8
T103 (net32 net16 net16 0) pfet L=4.10E-6 W=5.32E-6
C104 (net120 net139) C=1.5E-12
T105 (net5 net128 net128 0) nfet L=3.67E-6 W=9.85E-6
C106 (net76 net34) C=3.5E-7
T107 (net27 net62 net62 0) nfet L=4.27E-6 W=5.17E-6
R108 (net66 net48) R=0.5E5
R109 (net90 net15) R=0.8E3
R110 (net145 net138) R=2.3E4
C111 (net130 net136) C=7.9E-14
R112 (net36 net32) R=7.0E2
C113 (net75 net50) C=9.1E-11
T114 (net27 net50 net50 0) nfet L=8.51E-6 W=1.37E-6
T115 (net14 net110 net110 0) nfet L=8.22E-6 W=5.72E-6
T116 (net84 net103 net103 0) pfet L=1.98E-6 W=9.04E-6
T117 (net125 net147 net147 0) pfet L=3.40E-6 W=6.82E-6
T118 (net75 net49 net49 0) pfet L=2.77E-6 W=2.71E-6
T119 (net119 net71 net71 0) nfet L=3.71E-6 W=9.89E-6
R120 (net14 0) R=3.7E5
R121 (net149 net151) R=7.3E3
C122 (net102 net7) C=4.7E-7
T123 (net56 net101 net101 0) nfet L=2.44E-6 W=8.81E-6
C124 (net34 net141) C=9.2E-12
R125 (net49 net114) R=2.5E0
T126 (net121 net24 net24 0) pfet L=4.08E-6 W=4.21E-6
R127 (net45 net154) R=6.1E3
R128 (net56 net109) R=2.5E1
T129 (net47 net112 net112 0) nfet L=2.68E-6 W=5.87E-6
R130 (net92 net25) R=5.1E3
R131 (net51 net5) R=4.3E6
T132 (net50 net35 net35 0) pfet L=1.94E-6 W=2.74E-6
T133 (net66 net133 net133 0) pfet L=8.86E-6 W=6.23E-6
T134 (net17 net44 net44 0) pfet L=7.15E-6 W=0.67E-6
R135 (net111 net41) R=6.3E4
T136 (net33 net65 net65 0) nfet L=5.40E-6 W=8.88E-6
T137 (net147 net29 net29 0) pfet L=8.38E-6 W=4.92E-6
C138 (net102 net140) C=6.3E-7
T139 (net114 vdd! vdd! 0) pfet L=5.89E-6 W=5.34E-6
C140 (net79 0) C=4.2E-7
T141 (net27 net10 net10 0) nfet L=8.08E-6 W=7.98E-6
T142 (net117 net21 net21 0) nfet L=6.70E-6 W=0.29E-6
T143 (net73 net21 net21 0) pfet L=2.62E-6 W=1.53E-6
T144 (net50 net96 net96 0) nfet L=6.10E-6 W=1.73E-6
C145 (vdd! net122) C=2.9E-9
T146 (net144 net28 net28 0) nfet L=2.97E-6 W=9.47E-6
T147 (net33 net76 net76 0) pfet L=3.73E-6 W=6.30E-6
T148 (net120 net26 net26 0) pfet L=0.91E-6 W=1.21E-6
R149 (net134 net21) R=4.5E4
C150 (net119 net77) C=10.0E-5
T151 (vdd! net89 net89 0) pfet L=0.28E-6 W=8.97E-6
C152 (net126 net4) C=4.5E-10
C153 (net54 net63) C=5.1E-9
C154 (net60 net33) C=8.7E-12
R155 (net87 net58) R=6.2E5
T156 (net48 net56 net56 0) pfet L=0.53E-6 W=0.63E-6
T157 (net104 net120 net120 0) pfet L=8.64E-6 W=4.09E-6
T158 (net59 net66 net66 0) pfet L=5.75E-6 W=2.90E-6
T159 (net133 net26 net26 0) nfet L=5.85E-6 W=3.95E-6
R160 (net112 net80) R=9.0E5
T161 (net154 net117 net117 0) nfet L=6.75E-6 W=4.13E-6
T162 (net87 net19 net19 0) pfet L=1.82E-6 W=1.36E-6
R163 (net77 vdd!) R=6.0E5
C164 (net96 net33) C=6.1E-8
C165 (net4 net81) C=8.8E-13
T166 (net150 net131 net131 0) nfet L=0.43E-6 W=4.63E-6
R167 (net56 net14) R=1.0E4
C168 (net40 net39) C=9.7E-13
R169 (net28 net108) R=0.7E5
T170 (net10 0 0 0) pfet L=9.80E-6 W=1.93E-6
T171 (0 net92 net92 0) nfet L=7.46E-6 W=1.35E-6
T172 (net140 net61 net61 0) pfet L=0.20E-6 W=6.96E-6
T173 (net120 net127 net127 0) pfet L=8.42E-6 W=0.53E-6
C174 (net46 net114) C=8.4E-9
T175 (net31 net30 net30 0) nfet L=2.74E-6 W=8.10E-6
T176 (vdd! net67 net67 0) pfet L=6.64E-6 W=1.94E-6
C177 (net15 net14) C=4.5E-10
C178 (net6 net148) C=3.3E-5
C179 (net127 net35) C=5.2E-7
C180 (net70 net5) C=9.0E-5
T181 (net37 net149 net149 0) pfet L=2.85E-6 W=4.61E-6
C182 (net103 net46) C=2.4E-13
T183 (net6 net13 net13 0) nfet L=2.88E-6 W=2.06E-6
R184 (net52 net90) R=3.4E0
T185 (net102 net23 net23 0) pfet L=7.24E-6 W=7.71E-6
C186 (net144 net53) C=5.4E-6
C187 (net100 net111) C=8.6E-11
C188 (net63 net3) C=9.3E-5
R189 (net127 net89) R=4.5E2
T190 (net80 net14 net14 0) pfet L=9.65E-6 W=9.63E-6
C191 (net63 vdd!) C=7.6E-14
C192 (net33 net34) C=5.1E-6
C193 (net154 net110) C=6.4E-10
R194 (net19 net149) R=9.1E4
C195 (net36 net26) C=6.6E-8
C196 (net41 net12) C=0.9E-12
T197 (net7 net11 net11 0) pfet L=2.63E-6 W=7.36E-6
C198 (net154 net114) C=1.2E-14
T199 (net72 net60 net60 0) pfet L=4.57E-6 W=0.56E-6
T200 (net11 net140 net140 0) nfet L=8.04E-6 W=6.30E-6
C201 (net11 net15) C=2.9E-9
T202 (0 net132 net132 0) nfet L=0.20E-6 W=6.95E-6
C203 (net153 net76) C=7.5E-8
T204 (net129 net19 net19 0) pfet L=4.42E-6 W=8.49E-6
C205 (net37 net35) C=4.7E-5
T206 (net130 net104 net104 0) nfet L=7.27E-6 W=4.58E-6
C207 (net40 net120) C=0.5E-8
R208 (net38 net41) R=9.5E0
T209 (net47 net138 net138 0) pfet L=5.62E-6 W=2.49E-6
R210 (net100 net101) R=9.7E2
C211 (0 net11) C=1.5E-12
C212 (0 net115) C=6.0E-6
C213 (net33 net48) C=5.6E-5
T214 (net59 net47 net47 0) pfet L=7.81E-6 W=4.96E-6
T215 (net122 net58 net58 0) nfet L=7.91E-6 W=0.70E-6
T216 (net42 0 0 0) nfet L=8.09E-6 W=1.74E-6
C217 (net24 net97) C=5.1E-9
C218 (net81 net46) C=5.4E-10
T219 (net105 net108 net108 0) nfet L=2.26E-6 W=4.37E-6
C220 (0 net144) C=4.2E-5
R221 (net64 net90) R=9.8E6
R222 (net88 net58) R=3.4E3
T223 (net99 net51 net51 0) nfet L=9.10E-6 W=0.71E-6
C224 (net55 net40) C=2.2E-14
T225 (vdd! net86 net86 0) pfet L=3.89E-6 W=5.54E-6
C226 (net139 net10) C=5.5E-13
C227 (net108 vdd!) C=3.6E-11
T228 (net122 net141 net141 0) nfet L=5.03E-6 W=5.80E-6
T229 (net1 net134 net134 0) nfet L=2.18E-6 W=8.49E-6
T230 (net5 net23 net23 0) pfet L=8.56E-6 W=5.72E-6
T231 (net31 vdd! vdd! 0) pfet L=6.67E-6 W=1.50E-6
T232 (net78 net10 net10 0) pfet L=0.25E-6 W=2.72E-6
R233 (net106 net4) R=6.8E3
C234 (vdd! 0) C=9.9E-13
T235 (vdd! net87 net87 0) nfet L=9.95E-6 W=0.91E-6
T236 (net119 vdd! vdd! 0) nfet L=0.11E-6 W=6.27E-6
C237 (net63 net133) C=2.2E-7
T238 (vdd! net130 net130 0) pfet L=9.28E-6 W=5.88E-6
T239 (net96 net135 net135 0) pfet L=9.97E-6 W=4.07E-6
T240 (net82 net151 net151 0) nfet L=4.48E-6 W=3.50E-6
T241 (net78 vdd! vdd! 0) pfet L=1.14E-6 W=5.47E-6
C242 (net62 net18) C=3.0E-11
T243 (net19 net7 net7 0) pfet L=5.70E-6 W=9.64E-6
R244 (net63 net32) R=5.5E6
T245 (net119 net59 net59 0) nfet L=9.19E-6 W=3.44E-6
R246 (net68 net118) R=8.8E0
T247 (net39 net87 net87 0) nfet L=7.36E-6 W=7.12E-6
T248 (net94 net21 net21 0) pfet L=1.29E-6 W=6.14E-6
T249 (net121 net62 net62 0) pfet L=4.50E-6 W=9.02E-6
T250 (net64 net14 net14 0) pfet L=7.57E-6 W=8.24E-6
C251 (net153 net60) C=0.6E-5
C252 (net79 net105) C=0.9E-5
T253 (net68 net137 net137 0) pfet L=8.63E-6 W=9.24E-6
C254 (net89 net134) C=5.4E-13
C255 (net79 net82) C=0.7E-6
C256 (net19 net64) C=4.2E-11
T257 (net129 net131 net131 0) nfet L=7.68E-6 W=5.33E-6
T258 (net2 vdd! vdd! 0) nfet L=7.42E-6 W=1.62E-6
C259 (net32 net55) C=7.5E-12
C260 (net52 net2) C=1.8E-10
T261 (net94 vdd! vdd! 0) nfet L=0.96E-6 W=3.70E-6
T262 (net46 0 0 0) pfet L=1.50E-6 W=5.18E-6
T263 (net75 net47 net47 0) pfet L=9.03E-6 W=5.91E-6
T264 (net132 net5 net5 0) nfet L=0.49E-6 W=8.13E-6
C265 (net83 net61) C=1.8E-7
R266 (net53 net125) R=9.5E4
T267 (net54 net57 net57 0) nfet L=6.86E-6 W=7.73E-6
T268 (net63 net23 net23 0) nfet L=2.06E-6 W=0.53E-6
C269 (net11 net118) C=1.3E-8
T270 (net118 net62 net62 0) pfet L=1.86E-6 W=4.79E-6
C271 (net30 net49) C=5.0E-14
T272 (net86 net13 net13 0) nfet L=4.46E-6 W=0.40E-6
R273 (net87 net73) R=1.1E6
C274 (net43 vdd!) C=8.2E-9
T275 (net23 net2 net2 0) nfet L=7.13E-6 W=2.02E-6
R276 (net24 vdd!) R=5.0E1
C277 (net92 net154) C=8.2E-12
R278 (net68 net126) R=3.8E1
T279 (net97 net31 net31 0) pfet L=6.96E-6 W=3.77E-6
C280 (net70 net132) C=3.4E-7
R281 (net16 net148) R=1.3E1
T282 (net113 net22 net22 0) nfet L=8.91E-6 W=3.78E-6
C283 (net92 net118) C=1.7E-9
C284 (net93 net150) C=2.5E-5
R285 (net91 net104) R=3.0E1
R286 (net53 net10) R=0.4E5
T287 (net109 net144 net144 0) nfet L=8.13E-6 W=9.29E-6
R288 (net3 net39) R=1.9E0
T289 (net66 net148 net148 0) nfet L=8.97E-6 W=4.36E-6
C290 (net112 net34) C=5.6E-14
T291 (net52 net101 net101 0) pfet L=1.24E-6 W=6.33E-6
C292 (net53 net2) C=4.3E-14
T293 (0 net154 net154 0) pfet L=7.90E-6 W=6.63E-6
T294 (net127 net73 net73 0) pfet L=6.19E-6 W=7.25E-6
R295 (net118 net128) R=9.6E3
T296 (net9 net26 net26 0) pfet L=0.46E-6 W=1.54E-6
T297 (net108 net97 net97 0) pfet L=7.31E-6 W=1.07E-6
C298 (net127 net42) C=0.9E-10
T299 (net144 net49 net49 0) pfet L=0.61E-6 W=4.71E-6
R300 (net11 net64) R=8.2E2
C301 (net101 net63) C=8.6E-7
C302 (net67 net16) C=4.4E-6
T303 (net120 net73 net73 0) nfet L=3.18E-6 W=2.32E-6
C304 (net141 net42) C=2.8E-7
R305 (net58 net29) R=1.7E0
R306 (net123 net153) R=8.6E4
T307 (net84 net78 net78 0) nfet L=6.40E-6 W=7.56E-6
R308 (net59 net49) R=0.8E1
T309 (net147 net90 net90 0) nfet L=8.48E-6 W=10.00E-6
C310 (net142 net28) C=6.9E-5
T311 (net35 net26 net26 0) nfet L=9.06E-6 W=2.71E-6
T312 (net102 net37 net37 0) pfet L=2.23E-6 W=5.82E-6
C313 (net35 net70) C=9.6E-13
T314 (net51 vdd! vdd! 0) nfet L=1.99E-6 W=5.79E-6
T315 (net22 net43 net43 0) nfet L=8.35E-6 W=7.83E-6
T316 (net61 net146 net146 0) pfet L=3.70E-6 W=5.38E-6
R317 (net92 net88) R=0.9E1
T318 (net97 0 0 0) nfet L=8.81E-6 W=2.56E-6
T319 (net97 net96 net96 0) pfet L=9.58E-6 W=7.51E-6
T320 (vdd! net109 net109 0) nfet L=4.60E-6 W=8.81E-6
C321 (net135 net120) C=0.5E-9
T322 (net153 net26 net26 0) nfet L=1.98E-6 W=6.15E-6
R323 (net36 net2) R=5.6E4
R324 (net154 net19) R=0.5E0
T325 (net118 net84 net84 0) nfet L=5.26E-6 W=3.65E-6
T326 (net76 net123 net123 0) pfet L=2.89E-6 W=9.26E-6
T327 (net24 net32 net32 0) pfet L=2.07E-6 W=8.96E-6
T328 (net119 0 0 0) pfet L=4.02E-6 W=4.18E-6
C329 (net30 net90) C=3.9E-6
R330 (net38 net129) R=4.7E2
C331 (net121 net136) C=6.0E-11
T332 (net99 net146 net146 0) nfet L=4.97E-6 W=7.67E-6
T333 (net82 net6 net6 0) pfet L=2.02E-6 W=5.64E-6
T334 (net58 net5 net5 0) nfet L=1.92E-6 W=2.14E-6
T335 (0 net51 net51 0) pfet L=5.13E-6 W=7.22E-6
R336 (net116 net127) R=7.4E3
T337 (net78 net7 net7 0) nfet L=2.26E-6 W=3.68E-6
T338 (net99 net66 net66 0) nfet L=1.32E-6 W=5.64E-6
R339 (net49 net75) R=5.1E5
C340 (net151 net130) C=3.2E-11
T341 (net30 net81 net81 0) pfet L=3.36E-6 W=4.76E-6
T342 (net17 net148 net148 0) nfet L=2.66E-6 W=3.08E-6
C343 (net56 net38) C=2.8E-10
R344 (net82 net117) R=7.5E6
R345 (net87 vdd!) R=6.9E4
R346 (net40 net90) R=2.7E4
T347 (net16 net55 net55 0) pfet L=5.33E-6 W=7.21E-6
T348 (0 net58 net58 0) nfet L=3.19E-6 W=4.92E-6
T349 (net15 net7 net7 0) pfet L=1.12E-6 W=6.73E-6
C350 (vdd! net110) C=7.2E-9
C351 (net29 net23) C=0.4E-11
T352 (net128 net9 net9 0) pfet L=2.45E-6 W=6.73E-6
C353 (0 net117) C=2.6E-14
T354 (net71 net97 net97 0) pfet L=2.42E-6 W=8.06E-6
R355 (net133 net36) R=8.1E2
R356 (net56 net135) R=2.5E5
C357 (net23 net145) C=4.8E-13
T358 (net59 net23 net23 0) nfet L=0.40E-6 W=0.68E-6
T359 (net75 net56 net56 0) nfet L=5.96E-6 W=7.12E-6
R360 (vdd! net4) R=9.6E1
T361 (net48 net130 net130 0) pfet L=8.55E-6 W=5.40E-6
R362 (net52 0) R=3.2E3
R363 (net79 net127) R=3.4E3
C364 (net50 net24) C=6.7E-8
T365 (net46 net65 net65 0) nfet L=6.30E-6 W=6.65E-6
T366 (net23 net64 net64 0) pfet L=2.08E-6 W=2.85E-6
C367 (net38 net16) C=1.8E-8
T368 (0 net91 net91 0) pfet L=0.65E-6 W=5.09E-6
R369 (net103 net144) R=9.8E3
C370 (net3 net44) C=3.5E-11
R371 (net59 net51) R=5.9E2
R372 (net109 net88) R=7.8E4
R373 (net81 net89) R=1.8E2
C374 (net132 vdd!) C=8.3E-8
C375 (net41 net148) C=5.1E-9
T376 (net78 net83 net83 0) pfet L=1.51E-6 W=3.46E-6
C377 (net41 net132) C=2.6E-14
T378 (net88 net24 net24 0) pfet L=8.97E-6 W=8.41E-6
C379 (vdd! net29) C=2.4E-5
T380 (net46 net90 net90 0) pfet L=8.18E-6 W=5.32E-6
T381 (net65 net97 net97 0) nfet L=3.69E-6 W=5.42E-6
C382 (net84 net33) C=0.8E-5
T383 (0 net19 net19 0) pfet L=7.94E-6 W=3.64E-6
C384 (0 net23) C=9.5E-8
C385 (net30 vdd!) C=6.4E-7
R386 (0 net14) R=7.5E6
T387 (net112 net48 net48 0) nfet L=7.63E-6 W=6.92E-6
C388 (net108 net99) C=4.6E-7
T389 (net83 net40 net40 0) pfet L=5.05E-6 W=3.50E-6
C390 (net77 net113) C=3.4E-13
T391 (net61 net72 net72 0) pfet L=7.12E-6 W=8.65E-6
C392 (net100 net81) C=0.5E-7
T393 (net16 net34 net34 0) nfet L=1.28E-6 W=5.86E-6
T394 (net108 net73 net73 0) pfet L=2.04E-6 W=1.63E-6
T395 (net101 net70 net70 0) nfet L=5.83E-6 W=3.19E-6
R396 (net119 net75) R=9.3E5
R397 (net142 net21) R=7.3E2
R398 (net19 net149) R=6.8E3
C399 (net119 net3) C=2.0E-10
C400 (net127 net40) C=5.6E-5
T401 (net58 net48 net48 0) pfet L=3.39E-6 W=1.41E-6
T402 (net33 net33 net33 0) nfet L=5.62E-6 W=9.61E-6
T403 (net114 net90 net90 0) nfet L=3.12E-6 W=7.08E-6
C404 (net25 net118) C=2.3E-11
T405 (net89 net104 net104 0) nfet L=6.96E-6 W=3.40E-6
T406 (net97 net139 net139 0) pfet L=2.98E-6 W=1.43E-6
C407 (net76 net62) C=9.1E-12
R408 (net118 net135) R=1.6E6
R409 (net150 net93) R=7.8E1
C410 (net55 net7) C=3.6E-5
T411 (net105 net127 net127 0) pfet L=1.23E-6 W=2.59E-6
T412 (net150 net138 net138 0) nfet L=3.82E-6 W=1.90E-6
R413 (net73 net134) R=1.0E1
T414 (net120 net126 net126 0) nfet L=7.30E-6 W=1.29E-6
T415 (net79 net120 net120 0) pfet L=4.12E-6 W=4.42E-6
R416 (net33 net67) R=5.4E4
C417 (net143 net89) C=6.6E-14
R418 (net66 net140) R=0.8E5
T419 (net58 net127 net127 0) nfet L=4.17E-6 W=5.98E-6
T420 (vdd! 0 0 0) nfet L=0.39E-6 W=8.28E-6
T421 (net29 0 0 0) pfet L=1.08E-6 W=0.50E-6
T422 (net73 net25 net25 0) nfet L=5.58E-6 W=7.79E-6
C423 (net44 net86) C=4.2E-5
R424 (0 vdd!) R=7.2E5
C425 (net4 0) C=1.3E-6
T426 (net2 net144 net144 0) nfet L=0.51E-6 W=4.80E-6
R427 (net78 net6) R=1.8E5
T428 (net8 net14 net14 0) nfet L=3.67E-6 W=6.72E-6
R429 (net121 net153) R=9.6E3
C430 (net8 0) C=9.9E-13
T431 (net72 net138 net138 0) nfet L=1.67E-6 W=9.35E-6
C432 (net1 net47) C=7.2E-11
T433 (net151 net142 net142 0) nfet L=7.94E-6 W=9.53E-6
T434 (net90 net44 net44 0) pfet L=7.56E-6 W=4.86E-6
R435 (net66 net9) R=4.7E6
C436 (net129 vdd!) C=3.2E-7
T437 (net154 net8 net8 0) pfet L=1.74E-6 W=8.08E-6
T438 (net59 net152 net152 0) pfet L=0.46E-6 W=3.42E-6
T439 (net113 net153 net153 0) nfet L=0.62E-6 W=7.87E-6
R440 (net100 vdd!) R=2.5E1
C441 (vdd! net17) C=3.0E-11
T442 (vdd! net133 net133 0) pfet L=0.10E-6 W=6.53E-6
R443 (net106 net147) R=4.0E1
T444 (net63 net102 net102 0) pfet L=8.13E-6 W=8.38E-6
T445 (net91 net24 net24 0) nfet L=9.43E-6 W=2.51E-6
C446 (net16 net129) C=4.3E-6
C447 (net87 net83) C=8.2E-5
T448 (net146 net125 net125 0) pfet L=2.49E-6 W=9.44E-6
C449 (net4 net16) C=5.3E-7
T450 (net128 net13 net13 0) nfet L=4.72E-6 W=9.78E-6
T451 (net102 net99 net99 0) nfet L=8.13E-6 W=6.47E-6
C452 (net27 net62) C=7.8E-14
R453 (net75 net10) R=6.1E6
T454 (net144 net119 net119 0) pfet L=1.91E-6 W=1.71E-6
T455 (vdd! net25 net25 0) nfet L=9.13E-6 W=9.27E-6
R456 (net147 vdd!) R=0.8E3
R457 (net90 net22) R=2.8E1
T458 (net61 net22 net22 0) nfet L=5.66E-6 W=8.68E-6
T459 (net92 net149 net149 0) pfet L=8.51E-6 W=3.05E-6
R460 (net15 net11) R=7.7E1
T461 (net57 net115 net115 0) nfet L=4.57E-6 W=9.23E-6
R462 (net68 net66) R=6.1E5
C463 (net81 net66) C=4.3E-6
R464 (net39 net125) R=8.6E4
T465 (net66 net111 net111 0) nfet L=1.69E-6 W=9.89E-6
C466 (net138 net30) C=6.3E-12
R467 (0 net25) R=10.0E3
T468 (net68 net38 net38 0) pfet L=8.48E-6 W=2.51E-6
C469 (net87 net145) C=6.4E-5
C470 (net10 0) C=9.5E-13
C471 (net39 net60) C=7.1E-10
C472 (net104 net99) C=3.0E-5
T473 (net72 vdd! vdd! 0) nfet L=6.06E-6 W=2.24E-6
T474 (net60 net142 net142 0) pfet L=7.26E-6 W=5.09E-6
T475 (net7 vdd! vdd! 0) pfet L=7.08E-6 W=3.84E-6
T476 (net32 vdd! vdd! 0) nfet L=7.98E-6 W=3.40E-6
T477 (net54 net97 net97 0) nfet L=2.90E-6 W=4.94E-6
T478 (0 net112 net112 0) pfet L=0.84E-6 W=8.52E-6
C479 (net48 net142) C=0.7E-12
C480 (net28 net100) C=1.0E-6
T481 (net23 net136 net136 0) nfet L=1.71E-6 W=2.69E-6
T482 (net78 net68 net68 0) pfet L=0.95E-6 W=2.76E-6
R483 (net75 net9) R=9.3E5
T484 (net89 net19 net19 0) pfet L=0.77E-6 W=4.98E-6
R485 (net152 vdd!) R=7.6E5
C486 (net144 net57) C=8.1E-14
C487 (net144 net121) C=9.9E-12
C488 (net147 net62) C=5.3E-13
C489 (net107 0) C=7.3E-14
C490 (net132 net143) C=2.3E-7
T491 (net45 net108 net108 0) nfet L=6.83E-6 W=7.88E-6
T492 (net114 net147 net147 0) nfet L=5.31E-6 W=0.13E-6
C493 (net104 net141) C=8.5E-5
T494 (net135 net39 net39 0) nfet L=8.55E-6 W=1.40E-6
R495 (net5 net11) R=3.7E1
T496 (net72 net115 net115 0) nfet L=0.72E-6 W=5.34E-6
C497 (0 net68) C=3.7E-10
T498 (net5 net66 net66 0) nfet L=6.80E-6 W=0.18E-6
T499 (net32 net83 net83 0) nfet L=0.50E-6 W=7.43E-6
T500 (net56 net130 net130 0) nfet L=7.12E-6 W=5.73E-6
T501 (net38 net15 net15 0) pfet L=8.01E-6 W=9.31E-6
C502 (net109 net32) C=8.0E-6
R503 (0 net39) R=4.1E2
R504 (net111 vdd!) R=6.9E5
T505 (net83 net86 net86 0) pfet L=6.36E-6 W=8.62E-6
R506 (net83 net94) R=4.2E4
T507 (net38 net146 net146 0) nfet L=6.34E-6 W=3.29E-6
R508 (net153 net86) R=4.9E2
R509 (net142 net126) R=1.4E6
R510 (net41 net153) R=9.2E1
R511 (vdd! net68) R=1.5E5
C512 (0 net53) C=8.4E-10
T513 (net117 net128 net128 0) pfet L=0.84E-6 W=4.14E-6
C514 (net76 net81) C=9.4E-10
C515 (net97 net144) C=4.1E-7
T516 (net34 net104 net104 0) pfet L=7.25E-6 W=1.52E-6
C517 (vdd! net150) C=2.2E-5
R518 (0 net118) R=7.4E5
C519 (net84 net102) C=6.3E-11
T520 (net128 net61 net61 0) pfet L=0.60E-6 W=5.14E-6
C521 (net146 net97) C=6.6E-12
T522 (net12 net44 net44 0) pfet L=7.70E-6 W=6.07E-6
C523 (net132 net138) C=1.8E-7
R524 (net114 net30) R=0.7E0
T525 (net135 net150 net150 0) nfet L=3.01E-6 W=8.51E-6
R526 (net94 net66) R=1.1E2
T527 (net62 net80 net80 0) nfet L=6.83E-6 W=0.11E-6
C528 (net18 net89) C=4.4E-11
C529 (net81 net55) C=4.0E-12
T530 (net100 net112 net112 0) pfet L=6.81E-6 W=3.87E-6
C531 (net111 net40) C=7.8E-8
T532 (0 net91 net91 0) nfet L=2.51E-6 W=8.99E-6
T533 (net41 net32 net32 0) nfet L=2.43E-6 W=9.55E-6
T534 (net145 net113 net113 0) nfet L=5.55E-6 W=2.92E-6
T535 (net31 net71 net71 0) pfet L=6.52E-6 W=7.26E-6
T536 (net11 net14 net14 0) pfet L=4.77E-6 W=9.80E-6
R537 (net27 net75) R=0.2E4
T538 (net131 vdd! vdd! 0) nfet L=4.23E-6 W=4.89E-6
T539 (net98 net38 net38 0) pfet L=3.47E-6 W=5.89E-6
C540 (net73 net125) C=2.6E-12
C541 (net99 net44) C=2.4E-10
C542 (net153 net96) C=4.2E-6
T543 (net150 net72 net72 0) nfet L=0.58E-6 W=5.54E-6
R544 (net111 net147) R=2.1E6
C545 (net110 net101) C=8.4E-5
C546 (vdd! net131) C=6.5E-7
C547 (net84 net14) C=0.2E-13
T548 (net36 net99 net99 0) pfet L=7.59E-6 W=9.08E-6
T549 (vdd! net81 net81 0) nfet L=2.29E-6 W=2.08E-6
T550 (net135 net27 net27 0) nfet L=9.48E-6 W=8.47E-6
T551 (net149 net13 net13 0) nfet L=0.54E-6 W=3.98E-6
T552 (net125 net133 net133 0) nfet L=8.00E-6 W=3.47E-6
R553 (net89 vdd!) R=2.7E1
T554 (net99 net4 net4 0) pfet L=9.74E-6 W=5.61E-6
T555 (net67 net10 net10 0) nfet L=7.06E-6 W=6.36E-6

